US09340510B2
5-Fluoro-6-methoxy-1,2,3,4-tetrahydro-isoquinoline
To 1.0 g (5.9 mmol) 2-(2-fluoro-3-methoxy-phenyl)-ethylamine and 0.66 mL (8.9 mmol) formaldehyde (37% solution in water) in 10 mL DCM are added slowly 0.91 mL (12 mmol) TFA and the resulting mixture is stirred at r.t. over night. The reaction mixture is purified by HPLC (ACN/H2O/NH4OH).

reactant | 2-(2-fluoro-3-methoxy-phenyl)-ethylamine | 5.9 mmol, 1.0 g | FC1=C(C=CC=C1OC)CCN | C9H12FNO
reactant | formaldehyde | 8.9 mmol, 0.66 mL | C=O | CH2O
reactant | TFA | 12 mmol, 0.91 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-6-methoxy-1,2,3,4-tetrahydro-isoquinoline | FC1=C2CCNCC2=CC=C1OC | C10H12FNO
